US08404856B2
Step 5: tert-butyl [3-(3-bromo-5-chlorophenoxy)-4-chloropyridin-2-yl]carbamate 21-5
3-(3-bromo-5-chlorophenoxy)-4-chloropyridine-2-carboxylic acid (1.29 g, 3.55 mmol) was suspended in toluene (10 mL) and the solvent evaporated in vacuo to azeotrope any residual water. This dried solid was dissolved in THF (10 mL) and cooled over an ice bath for 5 minutes. This solution was sequentially treated with triethylamine (719 ul, 7.11 mmol), pyridine (575 ul, 7.11 mmol), t-butanol (1.699 mL, 17.77 mmol) and lastly DPPA (1.151 mL, 5.33 mmol). This solution was allowed to stir at room temperature for 20 minutes and then heated to 65° C. for 60 minutes. This reaction mixture was allowed to cool to room temperature and then partitioned between ethyl acetate (2×100 mL) and saturated aqueous NaHCO3 (100 mL). The combined extracts were dried over MgSO4, filtered and the solvent removed in vacuo. The residue was purified by chromatography using silica gel (330 g) eluting with a gradient of 0-100% EtOAc in CH2Cl2 to give the title compound. LRMS (M+1): 334.6.

reactant | 3-(3-bromo-5-chlorophenoxy)-4-chloropyridine-2-carboxylic acid | 3.55 mmol, 1.29 g | BrC=1C=C(OC=2C(=NC=CC2Cl)C(=O)O)C=C(C1)Cl | C12H6BrCl2NO3
reactant | triethylamine | 7.11 mmol, 719 ul | C(C)N(CC)CC | C6H15N
reactant | pyridine | 7.11 mmol, 575 ul | N1=CC=CC=C1 | C5H5N
reactant | t-butanol | 17.77 mmol, 1.699 mL | C(C)(C)(C)O | C4H10O
reactant | DPPA | 5.33 mmol, 1.151 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl [3-(3-bromo-5-chlorophenoxy)-4-chloropyridin-2-yl]carbamate | BrC=1C=C(OC=2C(=NC=CC2Cl)NC(OC(C)(C)C)=O)C=C(C1)Cl | C16H15BrCl2N2O3
